US05684034
A mixture of 211 mg (0.05 mmol of [4-[[3-(2-amino-2-oxoethyl)-2-ethyl-1-(phenylmethyl)-1-H-indol-5-yl]oxy]butanoic acid ethyl ester and 1 mL of hydrazine in 5 mL of ethanol was heated to maintain reflux for 5 hours. The mixture was diluted with water, extracted with ethyl acetate, the ethyl acetate washed with brine, dried (MgSO4), and concentrated at reduced pressure. The residue was stirred with MeOH and the insoluble material filtered to give 177 mg (87% yield) of 2-ethyl-5-(4-hydrazino-4-oxobutoxy)-1-(phenylmethyl)-1H-indole-3-acetamide, mp, 176°-179° C.

reactant | 4-[[3-(2-amino-2-oxoethyl)-2-ethyl-1-(phenylmethyl)-1-H-indol-5-yl]oxy]butanoic acid ethyl ester | C(C)OC(CCCOC=1C=C2C(=C(N(C2=CC1)CC1=CC=CC=C1)CC)CC(=O)N)=O | C25H30N2O4
reactant | hydrazine | 1 mL | NN | H4N2
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | water | O | H2O
product | 2-ethyl-5-(4-hydrazino-4-oxobutoxy)-1-(phenylmethyl)-1H-indole-3-acetamide | 177 mg, 87% yield | C(C)C=1N(C2=CC=C(C=C2C1CC(=O)N)OCCCC(=O)NN)CC1=CC=CC=C1 | C23H28N4O3
